US07449486B2
To a solution of (S)-2-(t-butyldiphenylsilyloxy)propanoic acid (339 mg, 1.09 mmol) in acetonitrile (6 mL) was added HATU (550 mg, 1.45 mmol) followed by DIEA (0.378 mL, 2.17 mmol). After stirring at room temperature for 15 minutes, a solution of 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole (260 mg, 0.72 mmol) in acetonitrile (4 mL) was added. After stirring at room temperature for 16 hours, the mixture was concentrated under reduced pressure and partitioned between saturated NaHCO3 (50 mL) and ethyl acetate (50 mL). The aqueous layer was extracted with ethyl acetate (2×30 mL) and the combined organic phases were washed with brine (20 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The brown oil was chromatographed (9:1 hexanes/ethyl acetate) to provide the less polar diastereomer, (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-(t-butyldiphenylsilyloxy)propan-1-one (121 mg) and the more polar diastereomer, (S)-1-((R)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-(t-butyldiphenylsilyloxy)propan-1-one (175 mg) as pale yellow oils. Absolute stereochemistry was assigned by examination of a protein:inhibitor co-crystal structure of Eg5 and (S)-1-((S)-2-(3-aminopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-methoxypropan-1-one.

reactant | (S)-2-(t-butyldiphenylsilyloxy)propanoic acid | 1.09 mmol, 339 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H](C(=O)O)C | C19H24O3Si
reactant | HATU | 1.45 mmol, 550 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 2.17 mmol, 0.378 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | 0.72 mmol, 260 mg | N(=[N+]=[N-])CCCC1(SC(=NN1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C17H15F2N5S
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-(t-butyldiphenylsilyloxy)propan-1-one | 121 mg | N(=[N+]=[N-])CCC[C@]1(SC(=NN1C([C@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C36H37F2N5O2SSi
